US04136189
51.2 g of 2-(5-nitro-furfurylidene)-amino-benzimidazole are dissolved in a mixture of 120 ml of chloroform and 80 ml of dimethylformamide, whereupon 30.6 g (0.2 moles) of 3-chlorophenyl-isocyanate are slowly added. The crystalline reaction mixture is stirred at room temperature for 7 hours while a mixture of 40 ml of dimethylformamide and 60 ml of chloroform are added. The precipitated crystals are filtered off, washed with 100 ml of chloroform and dried in vacuo at 40° C. to 60° C. Thus 54 g of 1-(3'-chlorophenyl-carbamoyl)-2-(5-nitro-furfurylidene)-amino-benzimidazole are obtained. Mp.: 210°-212° C.

reactant | 2-(5-nitro-furfurylidene)-amino-benzimidazole | 51.2 g | [N+](=O)([O-])C1=CC=C(C=C2N=C3C(=N2)C=CC=C3N)O1 | C12H8N4O3
reactant | 3-chlorophenyl-isocyanate | 0.2 moles, 30.6 g | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(3'-chlorophenyl-carbamoyl)-2-(5-nitro-furfurylidene)-amino-benzimidazole | 54 g | ClC=1C=C(C=CC1)NC(=O)N1C(NC2=C1C=CC=C2N)=CC2=CC=C(O2)[N+](=O)[O-] | C19H14ClN5O4
